US04395406
1-(2-Desoxy-2-acetylamino-3,4,6-tri-O-acetyl-D-glucopyranosyl)-5-chloropyrimid-2-one
2-Desoxy-2-acetylamino-3,4,6-tri-O-actyl-D-glucopyranosylchloride (0.01 mol) and the potassium salt of 5-chloropyrimid-2-one (0.008 mol) were heated together in dimethylformamide (60 ml) with stirring at 80° C. for 24 hours. The solvent was then evaporated at reduced pressure (1 mm Hg) and the residue was extracted with chloroform (120 ml). The chloroform solution was washed with aqueous 1 N NaOH (2×3 ml) and water (3 ml) before drying (Mg SO4). Evaporation left the title compound which was further purified by trituration with ether and recrystallization from a small volume of methanol; yield 50%, m.p. 165°-167° C. when the sample is heated rapidly. (Found: C, 47.00; H, 4.82. Calc. for C18H22ClN3O9: : C, 47.02; H, 4.82)

reactant | 2-Desoxy-2-acetylamino-3,4,6-tri-O-actyl-D-glucopyranosylchloride | 0.01 mol | C(C)(=O)N[C@H]1C(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Cl | C14H20ClNO8
reactant | potassium | [K] | K
reactant | 5-chloropyrimid-2-one | 0.008 mol | ClC=1C=NC(NC1)=O | C4H3ClN2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-(2-Desoxy-2-acetylamino-3,4,6-tri-O-acetyl-D-glucopyranosyl)-5-chloropyrimid-2-one | yield 50% | C(C)(=O)N[C@H]1C(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N1C(N=CC(=C1)Cl)=O | C18H22ClN3O9
